US07199133B2
1.0 g of water-moist Raney nickel is added to a solution of 2.60 g (10.7 mmol) of 2-(4-nitrophenyl)isothiazolidine 1,1-dioxide in 50 ml of tetrahydrofuran, and the mixture is hydrogenated at room temperature. The catalyst is filtered off, and the filtrate is evaporated, giving 2-(4-aminophenyl)isothiazolidine 1,1-dioxide as a brownish solid; ESI 213.

reactant | water | 1.0 g | O | H2O
reactant | 2-(4-nitrophenyl)isothiazolidine 1,1-dioxide | 10.7 mmol, 2.60 g | [N+](=O)([O-])C1=CC=C(C=C1)N1S(CCC1)(=O)=O | C9H10N2O4S
solvent | tetrahydrofuran | 50 ml | O1CCCC1 | C4H8O
product | 2-(4-aminophenyl)isothiazolidine 1,1-dioxide | NC1=CC=C(C=C1)N1S(CCC1)(=O)=O | C9H12N2O2S
